US07125997B2
Step C: 3-[6-(4-Trifluoromethoxy-phenylamino)-pyrimidin-4-yl]-N-(2-trifluoromethyl-benzyl)-benzamide
A mixture of 3-[6-(4-trifluoromethoxy-phenylamino)-pyrimidin-4-yl]-benzoic acid (100 mg, 0.27 mmol), 2-trifluoromethylbenzyl amine (71 mg, 0.40 mmol), HATU (112 mg, 0.30 mmol) and DIPEA (232 μL, 1.33 mmol) in DMF (4 mL) is stirred at room temperature for eight hours. The solvent is then removed and silica gel chromatography (methanol/dichloromethane, 5/95) affords the title compound, 3-[6-(4-Trifluoromethoxy-phenylamino)-pyrimidin-4-yl]-N-(2-trifluoromethyl-benzyl)-benzamide (134 mg, 95% yield); 1H NMR (400 MHz, d-DMSO) δ4.71 (d, J=5.1 Hz, 2H), 7.36 (m, 3H), 7.49 (m, 1H), 7.56 (d, J=7.5 Hz, 1H), 7.67 (m, 2H), 7.75 (d, J=7.9 Hz, 1H), 7.85 (d, J=9.1 Hz, 2H), 8.08 (d, J=7.8 Hz, 1H), 8.23 (d, J=7.7 Hz, 1H), 8.61 (s, 1H), 8.78 (s, 1H), 9.31 (dd, J=5.8, 6.0 Hz, 1H), 9.96 (s, 1H); MS (ES+) m/e 533.1(M+H+).

reactant | 3-[6-(4-trifluoromethoxy-phenylamino)-pyrimidin-4-yl]-benzoic acid | 0.27 mmol, 100 mg | FC(OC1=CC=C(C=C1)NC1=CC(=NC=N1)C=1C=C(C(=O)O)C=CC1)(F)F | C18H12F3N3O3
reactant | 2-trifluoromethylbenzyl amine | 0.40 mmol, 71 mg | FC(C1=C(CN)C=CC=C1)(F)F | C8H8F3N
reactant | HATU | 0.30 mmol, 112 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.33 mmol, 232 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | methanol dichloromethane | CO.ClCCl
product | 3-[6-(4-Trifluoromethoxy-phenylamino)-pyrimidin-4-yl]-N-(2-trifluoromethyl-benzyl)-benzamide | 134 mg, 95% yield | FC(OC1=CC=C(C=C1)NC1=CC(=NC=N1)C=1C=C(C(=O)NCC2=C(C=CC=C2)C(F)(F)F)C=CC1)(F)F | C26H18F6N4O2
